US08420816B2
STEP B: (S)-4-((1-oxo-1-(pyrrolidin-1-yl)butan-2-ylamino)methyl)-1H-pyrrolo[2,3-b]pyridine-3-carboxylic acid
To a 20 mL round bottom flask with a stirrer was added (S)-1-tert-butyl 3-methyl 4-((1-oxo-1-(pyrrolidin-1-yl)butan-2-ylamino)methyl)-1H-pyrrolo[2,3-b]pyridine-1,3-dicarboxylate (88 mg, 0.198 mmol), MeOH (1 mL) and THF (1 mL). Aqueous NaOH (12N, 1 mL) was added and the reaction mixture was stirred at 53° C. for 16 h. The solvent was removed and the resulting residue was further purified via preparative mass trigger LC-MS (AcCN/H2O, 1-50%). The fractions were collected, concentrated, and dried in vacuo to afford the title compound as a yellow oil (6 mg, 9.17%). [M+H] calc'd for C17H22N4O3, 331; found, 331.6.

reactant | (S)-1-tert-butyl 3-methyl 4-((1-oxo-1-(pyrrolidin-1-yl)butan-2-ylamino)methyl)-1H-pyrrolo[2,3-b]pyridine-1,3-dicarboxylate | 0.198 mmol, 88 mg | O=C([C@H](CC)NCC1=C2C(=NC=C1)N(C=C2C(=O)OC)C(=O)OC(C)(C)C)N2CCCC2 | C23H32N4O5
reactant | MeOH | 1 mL | CO | CH4O
reactant | NaOH | 12N, 1 mL | [OH-].[Na+]
solvent | THF | 1 mL | C1CCOC1 | C4H8O
product | (S)-4-((1-oxo-1-(pyrrolidin-1-yl)butan-2-ylamino)methyl)-1H-pyrrolo[2,3-b]pyridine-3-carboxylic acid | 6 mg, 9.17% | O=C([C@H](CC)NCC1=C2C(=NC=C1)NC=C2C(=O)O)N2CCCC2 | C17H22N4O3
